US05864039
N-(4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butyl)-1-methyl-1 H-indole-3-carboxamide (1.00 g) as starting compound was reacted and treated in the same manner as in Example 67 using 4-amino-5-chloro-2-cyclopropylmethyloxybenzoic acid (0.56 g) to give N-(4-(3-(4-amino-5-chloro-2-cyclopropylmethyloxybenzoylaminomethyl)-pyrrolidin-1-yl)butyl)-1-methyl-1 H-indole-3-carboxamide.

reactant | N-(4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butyl)-1-methyl-1 H-indole-3-carboxamide | 1.00 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCCNC(=O)C1=CN(C2=CC=CC=C12)C | C24H36N4O3
reactant | 4-amino-5-chloro-2-cyclopropylmethyloxybenzoic acid | 0.56 g | NC1=CC(=C(C(=O)O)C=C1Cl)OCC1CC1 | C11H12ClNO3
product | N-(4-(3-(4-amino-5-chloro-2-cyclopropylmethyloxybenzoylaminomethyl)-pyrrolidin-1-yl)butyl)-1-methyl-1 H-indole-3-carboxamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCCNC(=O)C2=CN(C3=CC=CC=C23)C)C=C1Cl)OCC1CC1 | C30H38ClN5O3
